US04916253
The reaction was conducted in the same manner as in Example 1 for 6 hours by using 8.9 g (30 mmol) of neopentyl 3,4,5-trichlorobenzoate instead of neopentyl 2,3,4,5-tetrachlorobenzoate in Example 1, 2.6 g (45 mmol) of spray-dried potassium fluoride, 1.3 g (3 mmol) of tetraphenyl phosphonium bromide and 9 g of anhydrous sulfolane. The post-treatment was conducted in the same manner, followed by distillation under reduced pressure to obtain 5.3 g of neopentyl 3,5-dichloro-4-fluorobenzoate. Further, the distillation residue was subjected to silica gel column chromatography and eluted with benzene to obtain 2.0 g of neopentyl 3,5-dichloro-4-fluorobenzoate as slightly yellow plates. The combined yield was 87%. The physical properties are shown below.

reactant | neopentyl 3,4,5-trichlorobenzoate | 30 mmol, 8.9 g | ClC=1C=C(C(=O)OCC(C)(C)C)C=C(C1Cl)Cl | C12H13Cl3O2
reactant | potassium fluoride | 45 mmol, 2.6 g | [F-].[K+]
reactant | sulfolane | 9 g | S1(=O)(=O)CCCC1 | C4H8O2S
catalyst | tetraphenyl phosphonium bromide | 3 mmol, 1.3 g | [Br-].C1(=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | neopentyl 3,5-dichloro-4-fluorobenzoate | 5.3 g | ClC=1C=C(C(=O)OCC(C)(C)C)C=C(C1F)Cl | C12H13Cl2FO2
